US09119868B2
Potassium hydroxide (15.1 g, 270 mmol) was added to a solution of the ethyl 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(methylsulfonylmethyl)methylsulfonamido)benzofuran-3-carboxylate in ethanol (64 mL) and water (32 mL) under nitrogen atmosphere. The reaction was refluxed for 1 hour and then concentrated in vacuo. The remaining solid was dissolved in water and the solution was acidified with 1N HCl (250 mL) until a precipitate formed. The solid was filtered and then dried to afford 5-cyclopropyl-2-(4-chlorophenyl)-6-(methylsulfonamido)benzofuran-3-carboxylic acid (8.7 g, quantitative yield).

reactant | Potassium hydroxide | 270 mmol, 15.1 g | [OH-].[K+]
reactant | ethyl 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(methylsulfonylmethyl)methylsulfonamido)benzofuran-3-carboxylate | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)N(S(=O)(=O)C)CS(=O)(=O)C)C2CC2 | C23H24ClNO7S2
solvent | ethanol | 64 mL | C(C)O | C2H6O
solvent | water | 32 mL | O | H2O
product | 5-cyclopropyl-2-(4-chlorophenyl)-6-(methylsulfonamido)benzofuran-3-carboxylic acid | 8.7 g, quantitative yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)O)C1)NS(=O)(=O)C | C19H16ClNO5S
